US05072004
The synthetic conversion of bryostatin 2 into bryostatin 1 comprising: admixing bryostatin 2 with tert-butyldimethylsilyl chloride in the presence of 4-(N,N-dimethylaminopyridine and triethylamine in dimethylformamide at 25° C. for about 22 hours to form a product containing byrostatin 2 26-tert-butyldimethylsilyl ether and bryostatin 2 7, 26-di-tert -butyldimethylsilyl ether; isolating said bryostatin 2 26 - tert - butyldimethylsilyl ether from said product; mixing said isolated bryostatin 2 26-tert-butyldimethylsilyl ether with acetic anhydride-pyridine at 25° C. for 18 hours to form bryostatin 2, 26 -tert-butyldimethylsilyl ether 7-acetate; mixing said 2 26-tert-butyldimethylsilyl ether 7-acetate with 48% hydrofluoric acid-acetonitrile (1:20) at 0°-5° C. for 1.5 hours to form bryostatin 1; and collecting said bryostatin 1.

reactant | bryostatin 2 | CCC/C=C/C=C/C(=O)O[C@H]1/C(=C/C(=O)OC)/CC2C[C@@H](OC(=O)C[C@@H](C[C@@H]3C[C@@H](C([C@@](O3)(C[C@@H]4C/C(=C\C(=O)OC)/CC(O4)/C=C/C([C@@]1(O2)O)(C)C)O)(C)C)O)O)[C@@H](C)O | C45H66O16
reactant | bryostatin 1 | CCC/C=C/C=C/C(=O)O[C@H]1/C(=C/C(=O)OC)/C[C@H]2C[C@@H](OC(=O)C[C@@H](C[C@@H]3C[C@@H](C([C@@](O3)(C[C@@H]4C/C(=C/C(=O)OC)/C[C@@H](O4)/C=C/C([C@@]1(O2)O)(C)C)O)(C)C)OC(=O)C)O)[C@@H](C)O | C47H68O17
reactant | tert-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | acetic anhydride pyridine | C(C)(=O)OC(C)=O.N1=CC=CC=C1 | InChI=1S/C5H5N.C4H6O3/c1-2-4-6-5-3-1;1-3(5)7-4(2)6/h1-5H;1-2H3
